US09062070B2
Step B: tert-butyl 3-(2-hydroxyethyl)-4-(2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)-2-oxoethyl)piperazine-1-carboxylate
tert-Butyl 3-(2-hydroxyethyl)piperazine-1-carboxylate (6.91 g, 30.0 mmol) and 5-(2-bromoacetyl)-4-methylisobenzofuran-1(3H)-one (6.73 g, 25 mmol) were dissolved in tetrahydrofuran (100 mL) then added Hunig's base (8.73 mL, 50.0 mmol) and stirred at RT overnight. The reaction was poured into brine and extracted with EtOAc (2×). The combined organic layer was dried over Na2SO4, filtered and evaporated to dryness. The crude product was chromatographed through an ISCO Redi-Sep 330 g column and eluted with 5% MeOH/DCM solvent system to the title compound. LC-MS (IE, m/z): 419 [M+1]+.

reactant | tert-Butyl 3-(2-hydroxyethyl)piperazine-1-carboxylate | 30.0 mmol, 6.91 g | OCCC1CN(CCN1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | 5-(2-bromoacetyl)-4-methylisobenzofuran-1(3H)-one | 25 mmol, 6.73 g | BrCC(=O)C=1C(=C2COC(C2=CC1)=O)C | C11H9BrO3
reactant | Hunig's base | 50.0 mmol, 8.73 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 3-(2-hydroxyethyl)-4-(2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)-2-oxoethyl)piperazine-1-carboxylate | OCCC1CN(CCN1CC(=O)C=1C(=C2COC(C2=CC1)=O)C)C(=O)OC(C)(C)C | C22H30N2O6
